US09370515B2
To a solution of trans-4-(3-(7-methylthieno[3,2-c]pyridin-2-yl)imidazo[1,2-b]pyridazin-6-ylamino)cyclohexanol (37 mg, 0.0975 mmol, 1.0 equiv) in DMF (2.00 mL) was added sodium hydride (20 mg, 0.488 mmol, 5.0 equiv) and methyl iodide (68 mg, 0.488 mmol, 5.0 equiv). After 2 h, the reaction mixture was quenched with water and extracted with ethyl acetate. Purification by column chromatography gave 20 mg (50%) of N-((1r,4r)-4-methoxycyclohexyl)-N-methyl-3-(7-methylthieno[3,2-c]pyridin-2-yl)imidazo[1,2-b]pyridazin-6-amine as the less polar product and 10 mg (25%) of trans-4-(N-methyl-N-(3-(7-methylthieno[3,2-c]pyridin-2-yl)imidazo[1,2-b]pyridazin-6-yl)amino)cyclohexanol as the more polar product.

reactant | trans-4-(3-(7-methylthieno[3,2-c]pyridin-2-yl)imidazo[1,2-b]pyridazin-6-ylamino)cyclohexanol | 0.0975 mmol, 37 mg, 1.0 equiv | CC=1C2=C(C=NC1)C=C(S2)C2=CN=C1N2N=C(C=C1)N[C@@H]1CC[C@H](CC1)O | C20H21N5OS
reactant | sodium hydride | 0.488 mmol, 20 mg, 5.0 equiv | [H-].[Na+]
reactant | methyl iodide | 0.488 mmol, 68 mg, 5.0 equiv | CI | CH3I
solvent | DMF | 2.00 mL | CN(C)C=O | C3H7NO
product | trans-4-(N-methyl-N-(3-(7-methylthieno[3,2-c]pyridin-2-yl)imidazo[1,2-b]pyridazin-6-yl)amino)cyclohexanol | 10 mg, 25% | CN(C=1C=CC=2N(N1)C(=CN2)C2=CC=1C=NC=C(C1S2)C)[C@@H]2CC[C@H](CC2)O | C21H23N5OS
